### PR TITLE
[Merged by Bors] - feat: relation between `emultiplicity` and `ramificationIdx` 

### PR DESCRIPTION
**Pull request by smmercuri**
If `w` is an ideal of `S` lying above the ideal `v` of `R` then the multiplicity of the push-forward of some ideal `I` of `R` in `w` is given by multiplying the multiplicity of `I` in `v` with the ramification index.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 1]
```diff
@@ -272,6 +272,50 @@ lemma ramificationIdx_eq_one_iff
   rw [← not_ne_iff, IsLocalization.map_algebraMap_ne_top_iff_disjoint P.primeCompl]
   simpa [primeCompl, Set.disjoint_compl_left_iff_subset]
 
+theorem emultiplicity_map_eq_zero_of_ne [IsDedekindDomain R] [Algebra R S]
+    [FaithfulSMul R S] {v : Ideal R} {w : Ideal S} {p : Ideal R}
+    (hv : Irreducible v) (hp : Prime p) (hw : Irreducible w)
+    (hvp : v ≠ p) [w.LiesOver v] :
+    emultiplicity w (p.map (algebraMap R S)) = 0 := by
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean:277]: I suspect this proof will be easier with [`emultiplicity_eq_zero`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Multiplicity.html#emultiplicity_eq_zero)

Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean:277]:
```suggestion
    emultiplicity w (p.under R) = 0 := by
```
(and also other places)

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 2]
```diff
@@ -272,6 +272,50 @@ lemma ramificationIdx_eq_one_iff
...
+  · simp [hvp, (FiniteMultiplicity.of_prime_left hp hp.ne_zero).emultiplicity_self,
+      ramificationIdx_eq_normalizedFactors_count hp_bot (isPrime_of_prime hw.prime) hw_bot,
+      emultiplicity_eq_count_normalizedFactors hw hp_bot]
+  · rw [emultiplicity_eq_zero_of_ne hv hp.irreducible hvp hp.ne_zero, mul_zero,
+      emultiplicity_map_eq_zero_of_ne hv hp hw hvp]
+
+/-- If `v` is an irreducible ideal of `R`, `w` is an irreducible ideal of `S` lying over `v`, and
+`I` is an ideal of `R`, then the multiplicity of `w` in `I.map (algebraMap R S)` is given by
+the multiplicity of `v` in `I` multiplied by the ramification index of `w` over `v`. -/
+theorem emultiplicity_map_eq_ramificationIdx_mul [IsDedekindDomain R] [Algebra R S]
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean:300]: This supersedes `emultiplicity_map_eq_ramificationIdx_mul_of_prime` right?
I would prefer to tag the previous lemma as private, or even merging the proof here (e.g. start the proof of this one with `wlog hI : Prime I`).

File: Mathlib/RingTheory/UniqueFactorizationDomain/Multiplicity.lean [hunk 3]
```diff
@@ -128,6 +128,17 @@ theorem count_normalizedFactors_eq' [DecidableEq R] {p x : R} (hp : p = 0 ∨ Ir
       exact absurd hle hlt
   · exact count_normalizedFactors_eq hp hnorm hle hlt
 
+theorem emultiplicity_eq_zero_of_ne {R : Type*} [CommMonoidWithZero R] [IsCancelMulZero R]
+    [UniqueFactorizationMonoid R] [Subsingleton Rˣ] {a b : R}
+    (ha : Irreducible a) (hb : Irreducible b) (h : a ≠ b) (hb₀ : b ≠ 0) :
+    emultiplicity a b = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/UniqueFactorizationDomain/Multiplicity.lean]: This is probably also easier with `emultiplicity_eq_zero`? I even suspect you can get rid of `UniqueFactorizationMonoid` or `IsCancelMulZero` this way.

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean (hunk 1 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean:277]: `.under` is `.comap (algebraMap R S)`; we want `.map (algebraMap R S)` here
